US07101899B1
4-[2-(4-fluorophenyl)-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
2-(2-Amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide (5.0 g, 13 mmol) was dissolved in N,N-dimethylformamide (40 mL), to the solution was added 4-fluorothiobenzamide (2.1 g, 13 mmol) and the mixture was stirred at room temperature for 16 hours. A saturated aqueous solution of sodium hydrogencarbonate (200 mL) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was dried and the solvent was distilled off. The residue was recrystallized from ethanol to obtain 3.9 g (11 mmol, yield 83%) of the title compound.

reactant | 2-(2-Amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide | 13 mmol, 5.0 g | Br.NC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)C)Br
reactant | 4-fluorothiobenzamide | 13 mmol, 2.1 g | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
reactant | sodium hydrogencarbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-fluorophenyl)-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 11 mmol, 3.9 g, yield 83% | FC1=CC=C(C=C1)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C21H16FN3S
